US06579872B1
N-[5-(3-trifluoromethylbenzamido)-2-methylphenyl]-3-(chloromethyl)benzamide
Using an analogous procedure to that described in Example 37, 3-chloromethylbenzoyl chloride was reacted with N-(3-amino-4-methylphenyl)-3-trifluoromethylbenzamide to give the title compound in 94% yield; NMR Spectrum: (DMSOd6) 2.2 (s, 3H), 4.85 (s, 2H), 7.25 (d, 1H), 7.6 (m, 3H), 7.8 (m, 2H), 7.95 (d, 2H), 8.05 (s, 1H), 8.16 (m, 2H), 9.96 (s, 1), 10.44 (s, 1H); Mass Spectrum: M−H− 445.

reactant | 3-chloromethylbenzoyl chloride | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
reactant | N-(3-amino-4-methylphenyl)-3-trifluoromethylbenzamide | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C15H13F3N2O
product | N-[5-(3-trifluoromethylbenzamido)-2-methylphenyl]-3-(chloromethyl)benzamide | 94% yield | FC(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=CC=C2)CCl)=O)C)C=CC1)(F)F | C23H18ClF3N2O2
